US06121380
2-Hydroxyethyl 2-Bromopropionate (2-H2PN)
Dicyclohexylcarbodimide (4.1 g, 20 mmol), anhydrous ethylene glycol (5.0 g, 81 mmol), and pyridine (1 ml, 12 mmol) were charged into a vial. Acetone (14 ml) and 2-bromopropionic acid (1.5 ml, 16.7 mmol) were added while cooling the vial down with an ice bath to control the exothermic reaction. After stirring the vial's contents overnight, undissolved by-products were removed by filtration. To the filtered reaction mixture were added AcOEt (20 ml) and saturated NaCl water (15 ml) followed by shaking well. The reaction mixture separated into 2 layers. The upper AcOEt layer was washed with dilute HCl once and saturated NaCl water (15 ml) two more times and then dried with MgSO4. After removing MgSO4, AcOEt was rotary evaporated to obtain a crude product. This crude product was purified by silica gel chromatography (eluent: AcOEt:hexane=1:1 by weight) to yield 1.4 g (43% yield) product.

reactant | Dicyclohexylcarbodimide | 20 mmol, 4.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethylene glycol | 81 mmol, 5.0 g | C(CO)O | C2H6O2
reactant | pyridine | 12 mmol, 1 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-bromopropionic acid | 16.7 mmol, 1.5 ml | BrC(C(=O)O)C | C3H5BrO2
reactant | NaCl water | 15 ml | [Na+].[Cl-].O
solvent | AcOEt | 20 ml | CCOC(=O)C | C4H8O2
solvent | Acetone | 14 ml | CC(=O)C | C3H6O
product | 2-Hydroxyethyl 2-Bromopropionate | 1.4 g, 43% yield | BrC(C(=O)OCCO)C | C5H9BrO3
